* C:\Users\Ian Diaz\Desktop\ITBA\TC\TP--FINAL\Calculus\simulation_generated_20191112-203857.asc
R4_2 N003 Vin_2 {R4_2}
R1_2 N011 N003 {R1_2}
C1_2 N011 N003 {C1_2}
R3_2 N004 N003 {R3_2}
R7_2 N015 N011 {R7_2}
R8_2 Vin_3 N015 {R8_2}
R6_2 N015 Vin_2 {R6_2}
C2_2 N004 N021 {C2_2}
R2_2 N021 Vin_3 {R2_2}
R1 N005 Vin_3 {R4_3}
R2 N012 N005 {R1_3}
C1 N012 N005 {C1_3}
R3 N006 N005 {R3_3}
R4 N016 N012 {R7_3}
R5 Vin_4 N016 {R8_3}
C2 N006 N022 {C2_3}
R7 N022 Vin_4 {R2_3}
XU1 0 N003 +VCC -VCC N011 TL082
XU2 0 N015 +VCC -VCC Vin_3 TL082
XU3 0 N021 +VCC -VCC N004 TL082
R6_4 N010 Vin_4 {R1_4}
R8_4 N017 N010 {R2_4}
C3_4 Vin_5 N010 {C1_4}
RB_4 0 N018 {RB_4}
RA_4 Vin_5 N018 {RA_4}
C4_4 N018 0 {C2_4}
XU8 N017 N018 +VCC -VCC Vin_5 TL082
XU4 0 N005 +VCC -VCC N012 TL082
XU5 0 N016 +VCC -VCC Vin_4 TL082
XU6 0 N022 +VCC -VCC N006 TL082
R6 N007 Vin_5 {R4_5}
R8 N014 N007 {R1_5}
C3 N014 N007 {C1_5}
R9 N008 N007 {R3_5}
R10 N019 N014 {R7_5}
R11 Vout_5 N019 {R8_5}
R12 N019 Vin_5 {R6_5}
C4 N008 N023 {C2_5}
R13 N023 Vout_5 {R2_5}
XU9 0 N007 +VCC -VCC N014 TL082
XU10 0 N019 +VCC -VCC Vout_5 TL082
XU11 0 N023 +VCC -VCC N008 TL082
R15 N009 N001 {R1_1}
C5 N009 N001 {C1_1}
R16 N002 N001 {R3_1}
R17 N013 N009 {R7_1}
R18 Vin_2 N013 {R8_1}
C6 N002 N020 {C2_1}
R20 N020 Vin_2 {R2_1}
XU7 0 N001 +VCC -VCC N009 TL082
XU12 0 N013 +VCC -VCC Vin_2 TL082
XU13 0 N020 +VCC -VCC N002 TL082
R14 N020 Vin_1 {R5_1}
V1 +VCC 0 15
V2 0 -VCC 15
V3 Vin_1 0 AC 1
.inc TL082.mod
.ac dec 100 100 100k
.param R1_1 2309.399173660418
.param R2_1 2682.623883760084
.param R3_1 1000.0
.param R5_1 52912.7573277596
.param R7_1 1000.0
.param R8_1 1000.0
.param C1_1 1e-08
.param C2_1 1e-08
.param R1_2 36169.4804882369
.param R2_2 66361.86788759787
.param R3_2 1000.0
.param R4_2 40864.39028848042
.param R6_2 1129.8030753239711
.param R7_2 1000.0
.param R8_2 1000.0
.param C1_2 1e-08
.param C2_2 1e-08
.param R1_3 8703.723324689865
.param R2_3 38104.119366606516
.param R3_3 1000.0
.param R4_3 1607.7009781889265
.param R7_3 1000.0
.param R8_3 1000.0
.param C1_3 1e-08
.param C2_3 1e-08
.param Ra_4 32075.000000000004
.param Rb_4 1000.0
.param C1_4 1e-08
.param C2_4 1.6208450441481388e-07
.param R1_4 10000.0
.param R2_4 10000.0
.param R1_5 5510.500183633695
.param R2_5 1540.3382575393125
.param R3_5 1000.0
.param R4_5 4679.432900504157
.param R6_5 849.1847826086956
.param R7_5 1000.0
.param R8_5 1000.0
.param C1_5 1e-08
.param C2_5 1e-08
.backanno
.end
